US08357350B2
(E)-N-methyl-N((2E,4E)-5-(methyl(phenyl)amino)penta-2,4-dienylidene)benzenaminium bromide (1)
To a solution of N-methylaniline (30 g, 140 mmol) and pyridine (11.2 g, 140 mmol) in diethylether (100 ml) at 0° C., was added a solution of cyanogen bromide (14.8 g, 140 mmol) in ether (40 ml) dropwise. The mixture was warmed to 20° C. and within 15 minutes a red oil began to separate. Exothermic (30° C.) crystallization ensued and the red solid mass was left to stand at room temperature overnight. The crystalline mass was filtered and washed with cold ether under N2 and the hygroscopic salt was used in the next step without further purification. Yield: 47.7 g (95%).

reactant | N-methylaniline | 140 mmol, 30 g | CNC1=CC=CC=C1 | C7H9N
reactant | pyridine | 140 mmol, 11.2 g | N1=CC=CC=C1 | C5H5N
reactant | cyanogen bromide | 140 mmol, 14.8 g | N#CBr | CBrN
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | (E)-N-methyl-N((2E,4E)-5-(methyl(phenyl)amino)penta-2,4-dienylidene)benzenaminium bromide | [Br-].C\[N+](\C1=CC=CC=C1)=C/C=C/C=C/N(C1=CC=CC=C1)C | InChI=1S/C19H21N2.BrH/c1-20(18-12-6-3-7-13-18)16-10-5-11-17-21(2)19-14-8-4-9-15-19;/h3-17H,1-2H3;1H/q+1;/p-1
